US05561142
A. Preparation of 2-Azido-1-Phenylvinyl 3-Cyclopentylpropionate
To a stirred solution of α-azidoacetophenone (3.37 g, 20.9 mmol) in dry THF (50 mL) was added a solution of LDA (2.0 M in cyclohexane, 12.5 mL, 25 mmol) at -78° C. under nitrogen dropwise. After the reaction mixture was stirred for 1 h, a solution of 3-cyclopentylpropionyl chloride (5.04 g, 31.35 mmole, 1.5 eq.) was added to the dark red mixture, and after 10 min, the mixture was slowly warmed to room temperature. Stirring was continued for 1 h and the resultant yellow mixture was poured into water and extracted with ethyl acetate (3×50 mL). The combined organics were washed with water and brine, dried over magnesium sulfate, and filtered. Evaporation of solvent followed by column chromatography on silca gel (eluent: 2:1 ethyl acetate:hexanes) gave 4.0 g (71.5%) of the title compound: 1H NMR (400 MHz, CDCl3) ε 7.32-7.26 (m, 5H), 6.53 (s, 1H), 2.58 (t, 2H, J=7.5 Hz), 1.89-1.70 (m, 5H), 1,65-1.40 (m, 4H), 1.2 (m, 2H).

reactant | α-azidoacetophenone | 20.9 mmol, 3.37 g | N(=[N+]=[N-])CC(=O)C1=CC=CC=C1 | C8H7N3O
reactant | LDA | 25 mmol, 2.0 M, 12.5 mL | [Li+].CC(C)[N-]C(C)C
reactant | 3-cyclopentylpropionyl chloride | 31.35 mmole, 5.04 g, 1.5 eq. | C1(CCCC1)CCC(=O)Cl | C8H13ClO
reactant | water | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-Azido-1-Phenylvinyl 3-Cyclopentylpropionate | 4.0 g, 71.5% | C1(CCCC1)CCC(=O)OC(=CN=[N+]=[N-])C1=CC=CC=C1 | C16H19N3O2
